US08541411B2
a) methyl 2-(difluoromethyl)-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazole-4-carboxylate
A mixture of methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 68 (500 mg, 1.6 mmol), K2CO3 (442 mg, 3.2 mmol) and 1-(bromomethyl)naphthalene (426 mg, 1.9 mmol) in DMF (15 mL) was stirred at 70° C. for 18 h. The reaction mixture was cooled to room temperature and filtered. The liquid was poured into water (100 mL) and filtered, the filter cake was collected and purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the desired product (710 mg, 98%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6,): δ ppm 3.08 (t, 4H, J=4.5 Hz), 3.68 (t, 4H, J=4.5 Hz), 3.94 (s 3H), 6.21 (s, 2H), 6.27 (d, 1H, J=6.9 Hz), 7.21-7.38 (m, 3H), 7.56-7.69 (m, 3H), 7.84 (d, 1H, J=8.4 Hz), 8.00 (d, 1H, J=8.4 Hz), 8.24 (d, 1H, J=8.7 Hz); LC-MS: m/e=452 [M+1]+

reactant | methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | FC(C1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC)F | C14H15F2N3O3
reactant | K2CO3 | 3.2 mmol, 442 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)naphthalene | 1.9 mmol, 426 mg | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 2-(difluoromethyl)-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazole-4-carboxylate | 710 mg, 98% | FC(C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)OC)N2CCOCC2)F | C25H23F2N3O3
